Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall with pain in left gluteal area
 
Major Surgical or Invasive Procedure:
___ Interventional Radiology procedure: Successful Gel-Foam 
embolization of the posterior division of the left internal 
iliac artery. 

 
History of Present Illness:
The patient is a ___ gentleman status post mechanical 
fall on ice landing on his left gluteal area. Patient is 
anticoagulated because of atrial fibrillation. Went to see his 
primary care physician however felt weak and was diverted to the 
emergency department. Complains of pain in the left gluteal area 
only. No headache, neck pain, loss of consciousness, amnesia, 
syncope
or other complaints.

 
Past Medical History:
HTN, Dyslipidemia, Diabetes, Afib on Coumadin, CHF ( EF 
40-45%),migraines, heart failure with preserved EF, left lower 
extremity hematoma s/p evacuation/debridement, chronic kidney 
disease 

PSH:
Pilondial cyst excision
 
Social History:
___
Family History:
Father with MI at age ___. Strong family h/o breast cancer. 
Endorses h/o colon cancer.
 
Physical Exam:
Admission Physical Exam:
VS: 98.2 113/70 74 18 98%  
General: Pleasant obese Caucasian male cooperative, well 
developed and well nourished.  
Head: Normocephalic, NCAT, EOEM, non icteric sclera, no 
proptosis  
Pulmonary: Clear to auscultation but diminish BS throughout  
Cardiovascular: Normal rate and rhythm. Normal S1 and S2.  
Abdomen: Bowel sounds are normal. No tenderness.  
Integumentary: no rash  
Neurological:Normal mental status. moving all 4 ext, no resting 
tremor  
Foot: Normal color and temperature. Nails are well trimmed. No 
ulcers present. Strong dorsalis pedis pulse. Dry skin  

Discharge Physical Exam:
VS: 98.4, 71, 124/68, 18, 99% RA
Gen: Well appearing, alert and interactive
HEENT: No deformities. mucus membranes moist. trachea midline, 
neck supple.
CV: Irregular 
Pulm: Clear to auscultation bilaterally.
Abd: abdomen obese, soft, non-tender, non-distended. Active 
bowel sounds x4 quadrants. 
Skin: Left gluteal with dark purple ecchymotic area. Blistered 
area with pink moist wound base. 
Ext: Warm and dry. 2+ ___ pulses. 

 
Pertinent Results:
___ 05:50AM BLOOD WBC-6.7 RBC-3.20* Hgb-9.4* Hct-29.4* 
MCV-92 MCH-29.4 MCHC-32.0 RDW-17.2* RDWSD-55.0* Plt ___
___ 03:38PM BLOOD WBC-8.6 RBC-2.96* Hgb-8.8* Hct-26.9* 
MCV-91 MCH-29.7 MCHC-32.7 RDW-17.1* RDWSD-53.4* Plt ___
___ 05:25AM BLOOD WBC-6.1 RBC-2.78* Hgb-8.1* Hct-25.3* 
MCV-91 MCH-29.1 MCHC-32.0 RDW-16.7* RDWSD-53.0* Plt ___
___ 07:25PM BLOOD Hct-25.8*
___ 06:45AM BLOOD WBC-7.9 RBC-2.93* Hgb-8.4* Hct-26.9* 
MCV-92 MCH-28.7 MCHC-31.2* RDW-16.5* RDWSD-53.8* Plt Ct-96*
___ 07:10PM BLOOD Hct-25.9*
___ 05:05PM BLOOD Hct-26.5*
___ 03:09PM BLOOD Hct-26.8*
___ 12:10PM BLOOD Hct-26.1*
___ 05:15AM BLOOD WBC-9.0 RBC-3.04* Hgb-8.8* Hct-27.0* 
MCV-89 MCH-28.9 MCHC-32.6 RDW-15.9* RDWSD-50.2* Plt Ct-91*
___ 08:58PM BLOOD Hct-27.9*
___ 02:40PM BLOOD Hct-25.8*
___ 05:35AM BLOOD WBC-6.9 RBC-2.56* Hgb-7.3* Hct-22.2* 
MCV-87 MCH-28.5 MCHC-32.9 RDW-15.9* RDWSD-49.4* Plt Ct-80*
___ 07:28PM BLOOD WBC-10.0 RBC-3.12* Hgb-8.9* Hct-27.4* 
MCV-88 MCH-28.5 MCHC-32.5 RDW-15.9* RDWSD-50.0* Plt ___
___ 05:35AM BLOOD WBC-8.0 RBC-2.59* Hgb-7.3* Hct-22.8* 
MCV-88 MCH-28.2 MCHC-32.0 RDW-16.1* RDWSD-50.8* Plt ___
___ 10:10PM BLOOD WBC-8.5 RBC-2.98* Hgb-8.5* Hct-25.9* 
MCV-87 MCH-28.5 MCHC-32.8 RDW-16.1* RDWSD-50.1* Plt ___
___ 08:15PM BLOOD Hct-26.8*
___ 03:48PM BLOOD WBC-9.2 RBC-3.63* Hgb-10.2* Hct-31.5* 
MCV-87 MCH-28.1 MCHC-32.4 RDW-16.3* RDWSD-51.0* Plt ___
___ 10:10AM BLOOD WBC-13.0*# RBC-4.08* Hgb-11.7* Hct-36.1* 
MCV-89 MCH-28.7 MCHC-32.4 RDW-16.4* RDWSD-52.1* Plt ___
___ 05:50AM BLOOD ___
___ 05:15AM BLOOD ___ PTT-28.2 ___
___ 07:28PM BLOOD ___ PTT-29.3 ___
___ 05:35AM BLOOD ___ PTT-32.1 ___
___ 10:10AM BLOOD ___ PTT-46.9* ___

___ 05:50AM BLOOD Calcium-8.4 Phos-3.7 Mg-2.2
___ 05:25AM BLOOD Calcium-8.2* Phos-3.8 Mg-2.1
___ 06:20AM BLOOD Calcium-8.4 Phos-3.9 Mg-1.7
___ 06:45AM BLOOD Calcium-8.5 Phos-3.9 Mg-1.8
___ 05:15AM BLOOD Calcium-8.3* Phos-3.4 Mg-1.8
___ 05:35AM BLOOD Calcium-8.2* Phos-3.5 Mg-1.9
___ 05:35AM BLOOD Calcium-8.3* Phos-3.6 Mg-1.9
___ 04:12PM BLOOD Lactate-2.5*
___ 10:16AM BLOOD Lactate-3.6*

___ 06:12PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:40PM URINE Color-Straw Appear-Clear Sp ___
___ 06:12PM URINE Blood-TR Nitrite-NEG Protein-TR 
Glucose-300 Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-LG
___ 03:40PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-MOD
___ 06:12PM URINE RBC-4* WBC-66* Bacteri-FEW Yeast-NONE 
Epi-0
___ 03:40PM URINE RBC-1 WBC-11* Bacteri-MOD Yeast-NONE 
Epi-<1

___ ECG
Clinical indication for EKG: I48.91 - Unspecified atrial 
fibrillation 
Baseline artifact. Atrial fibrillation with a variable 
ventricular response. Intraventricular conduction delay. Right 
bundle-branch block. Q-T interval prolongation. ST-T wave 
abnormalities. Compared to the previous tracing  of ___ the 
rate is now slower. ST-T wave abnormalities are more prominent. 
Clinical correlation is suggested.  

___ CT CH/AB/Pelvis
1. Complex fluid collection in the left gluteal soft tissues 
measuring 4.9 x 11.5 x 13.1 cm is compatible with a hematoma.  
There are two focal regions compatible with active 
extravasation. 
2. No other sequela of trauma in the chest, abdomen or pelvis. 
3. A 0.7 cm left adrenal nodule is incompletely characterized 
but 
statistically most likely to be an adenoma. 
4. Bilateral hypodense kidney lesions, most too small to 
characterize but 
likely cysts.

___ CT C-Spine
No acute fracture or malalignment.

___ CT Head 
No acute intracranial process.

___ ECG
Clinical indication for EKG: I48.91 - Unspecified atrial 
fibrillation 
Probable atrial flutter with 2:1 block, though artifact makes 
diagnosis 
somewhat in question. Right bundle-branch block. ST-T wave 
abnormalities. 
Compared to the previous tracing of ___ the ventricular 
response is now faster. Flutter waves are now more prominent. 
Otherwise, no change. 

 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M admitted to the Acute Care Trauma 
Surgery Service on ___ after a mechanical fall on Coumadin 
for afib. CT scan showed a left gluteal hematoma with active 
extravasation. His INR was 4.0 on admission and he subsequently 
received 10 mg IV Vitamin K, K-centra, and 1 unit of fresh 
frozen plasma. Interventional radiology was consulted and 
deferred intervention at that time. He was admitted to the floor 
for serial hematocrits and hemodynamic monitoring.

On HD2 his hematocrit continued to trend down and he was 
transfused with 2 units of packed red blood cells. On HD3 his 
hematocrit continued to trend down and he received 2 more units 
of packed red blood cells. Interventional radiology was 
reconsulted and preformed a successful Gel-Foam embolization of 
the posterior division of the left internal iliac artery. His 
hematocrit levels remained stable.

___ Diabetic Center was consulted for high glucose in the 
setting of elevated creatinine and recommended transitioning to 
Lantus, glipizide, and Januvia with further outpatient 
monitoring of his creatinine and glucose. 

On HD7 he had an episode of weakness, lightheadedness, and 
hypotension to the 60's systolic. His hematocrit was stable, 
troponins were negative for elevation, his ECG was baseline 
atrial fibrillation. He received 1 Liter of Lactated Ringers and 
his symptoms improved and was hemodynamically stable. He 
received 1 unit of packed red blood cells for suspected 
decreased oxygen carrying capacity in setting of anemia with 
history of heart failure. On HD8, he was initially feeling well 
but had an episode of weakness/dizziness improved with sitting 
and laying down. The MERIT team was consulted and recommended 
decreasing his lisinopril dose. He had subsequent improvement of 
symptoms. 

The remainder of his hospital course can be summarized below:
Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with oral acetaminophen. 
CV: The patient had symptomatic hypotension resolved after 
intervention as described above; vital signs were routinely 
monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient tolerated a regular diet and voided 
without difficulty.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding and he was transfused with red blood cells as 
needed.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. His home coumdain dosing 
was restarted on HD7 and INR levels were monitored. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled. He was discharged to his sister's house with ___ 
services to assist with wound care and INR monitoring.  The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan. Follow up appointments were scheduled. 

 
Medications on Admission:
AMIODARONE - amiodarone 400 mg tablet. 1 tablet(s) by mouth 
twice a day
CARVEDILOL - carvedilol 25 mg tablet. 2 tablet(s) by mouth twice 
daily
DILTIAZEM HCL - diltiazem ER 240 mg capsule,extended release. 1 
capsule(s) by mouth daily
GLYBURIDE-METFORMIN - glyburide 2.5 mg-metformin 500 mg tablet. 
2 tablet(s) by mouth twice a day
LISINOPRIL - lisinopril 40 mg tablet. 1 tablet(s) by mouth daily
POTASSIUM CHLORIDE [KLOR-CON 10] - Klor-Con 10 mEq 
tablet,extended release. 1 tablet(s) by mouth daily
PRAVASTATIN [PRAVACHOL] - Pravachol 40 mg tablet. 1 tablet(s) by
mouth QPM
SITAGLIPTIN [JANUVIA] - Januvia 100 mg tablet. 1 (One) tablet(s) 
by mouth daily 
TORSEMIDE - torsemide 60 mg by mouth daily
WARFARIN - warfarin 5 mg tablet. 1 tablet(s) by mouth daily 
(___)
WARFARIN [JANTOVEN] - Jantoven 2.5 mg tablet. 1 tablet(s) by
mouth every ___
 
Medications - OTC
ALCOHOL SWABS - alcohol swabs. use to check blood glucose three
times a day or as directed
ASPIRIN - aspirin 81 mg tablet,delayed release. tablet,delayed
release (___) by mouth  -  (OTC)
BISACODYL - bisacodyl 5 mg tablet,delayed release. 1 to 3
tablet(s) by mouth daily
BLOOD SUGAR DIAGNOSTIC [FREESTYLE LITE STRIPS] - FreeStyle Lite
Strips. ___ checks Daily
CYANOCOBALAMIN (VITAMIN B-12) - cyanocobalamin (vit B-12) 1,000
mcg tablet. 1 tablet(s) by mouth daily
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 (One)
capsule(s) by mouth once a day
LANCETS [FREESTYLE LANCETS] - FreeStyle Lancets 28 gauge. ___
checks Daily
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN Headache 
2. Amiodarone 400 mg PO Q12H 
3. Carvedilol 25 mg PO BID 
4. Diltiazem Extended-Release 240 mg PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Torsemide 60 mg PO DAILY 
7. Warfarin 5 mg PO 6X/WEEK (___) 
8. Warfarin 2.5 mg PO 1X/WEEK (MO) 
9. Glargine 10 Units Dinner
RX *insulin glargine [Lantus] 100 unit/mL AS DIR 10 subcutaneous 
10 Units before DINR; Disp #*1 Vial Refills:*1
RX *insulin syringe-needle U-100 [BD Insulin Syringe Ult-Fine 
II] 31 gauge X ___ use as directed once a day Disp #*1 Package 
Refills:*1
10. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
11. GlipiZIDE XL 5 mg PO QAM 
You were taking this medication at home but it has been switched 
to "extended release" formulation 
RX *glipizide 5 mg 1 tablet(s) by mouth qAM Disp #*60 Tablet 
Refills:*0
12. Januvia (sitaGLIPtin) 50 mg oral qAM 
You were taking this medication at home but there has been a 
change in dosage (how much) 
RX *sitagliptin [Januvia] 50 mg 1 tablet(s) by mouth qAM Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left gluteal hematoma with active extravasation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___ after a fall sustaining a 
right gluteal hematoma. You had a CT scan that showed active 
bleeding. You were taken to Interventional Radiology and 
underwent a gel foam embolization to stop the bleeding. You 
hematocrit blood level was closely monitored and you received 
blood transfusions while in the hospital. 

You had low blood pressure with ambulation. Your Lisinopril dose 
was decreased and your symptoms have improved.

You were evaluated by the ___ diabetes and your 
blood glucose management was changed. You received insulin 
teaching and will continue with your new medication regimen once 
you leave the hospital. Please notify your primary care provider 
and feel free to contact the ___ further 
management. 

You are now doing better, your blood counts are stable, your 
pain is better controlled and you are ambulating independently. 
You are ready to be discharged to home with visiting nursing to 
continue your recovery. 

Please note the following discharge instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
*Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until your follow-up appointment. 

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___